US08022076B2
Hydrogen chloride gas was bubbled through a stirred solution of 2-amino-4-phenylthiophene-3-carboxylic acid ethyl ester (4.94 g, 0.02 mol) and chloroacetonitrile (1.4 ml, 0.022 mol) in anhydrous 1,4-dioxane (60 ml) for about 4 hours. A thick suspension formed initially which slowly dissolved. The mixture was stirred at ambient temperature for 18 hours before being poured into water (250 ml) and basified (pH 8) by the addition of sodium hydrogen carbonate. The supernatant was then decanted to leave a gummy solid which was triturated with aqueous ethanol to give 2-chloromethyl-5-phenyl-3H-thieno[2,3-d]pyrimidin-4-one as a yellow solid (3.70 g), which was used without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-amino-4-phenylthiophene-3-carboxylic acid ethyl ester | 0.02 mol, 4.94 g | C(C)OC(=O)C1=C(SC=C1C1=CC=CC=C1)N | C13H13NO2S
reactant | chloroacetonitrile | 0.022 mol, 1.4 ml | ClCC#N | C2H2ClN
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,4-dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | water | 250 ml | O | H2O
product | 2-chloromethyl-5-phenyl-3H-thieno[2,3-d]pyrimidin-4-one | 3.70 g | ClCC=1NC(C2=C(N1)SC=C2C2=CC=CC=C2)=O | C13H9ClN2OS
